US05106863
5-Methoxy-2-octylthio-1H-1,3-benzimidazole Hemioxalate Monohydrate
To a solution of 5-methoxy-2-mercaptobenzimidazole (2 16 g, 12 mmol) (Varima, R. S., J. Indian Chem. Soc. 62, 73 (1985)) in methanol (100 mL) and 2N NaOH/H2O (20 mmol) was added octyl bromide (2.65 g, 12 mmol). The solution was stirred at ambient temperature for 16 hours, evaporated, dissolved in CH2Cl2, washed with saturated NaHCO3, and dried over Na2SO4. Evaporation of the solvent and flash chromatography (Merck Kieselgel, 5% MeOH/CH2Cl2) gave 1.4 of the title compound as a free base. Conversion of 600 mg of the free base to its oxalate salt gave 540 mg of a white solid. m.p. 102°- 106° C. NMR (DMSO-d6)δ7.10(m,3H), 3.25(t,J=4 Hz,2H), 1.20(br, 15H).

reactant | 5-methoxy-2-mercaptobenzimidazole | 12 mmol, 16 g | COC1=CC2=C(N=C(N2)S)C=C1 | C8H8N2OS
reactant | NaOH H2O | 20 mmol, 2N | [OH-].[Na+].O
reactant | octyl bromide | 12 mmol, 2.65 g | C(CCCCCCC)Br | C8H17Br
reactant | methanol | 100 mL | CO | CH4O
product | 5-Methoxy-2-octylthio-1H-1,3-benzimidazole Hemioxalate Monohydrate | O.C(C(=O)O)(=O)O.COC1=CC2=C(NC(=N2)SCCCCCCCC)C=C1.COC1=CC2=C(NC(=N2)SCCCCCCCC)C=C1.O | InChI=1S/2C16H24N2OS.C2H2O4.2H2O/c2*1-3-4-5-6-7-8-11-20-16-17-14-10-9-13(19-2)12-15(14)18-16;3-1(4)2(5)6;;/h2*9-10,12H,3-8,11H2,1-2H3,(H,17,18);(H,3,4)(H,5,6);2*1H2
